US04732991
A stirred mixture of 8.1 g of 2-(4-dimethylamino-4'-methoxybenzhydryl)-5-dimethylaminobenzoic acid from part A above, 40.0 ml of water, 1.6 g of 50 percent aqueous sodium hydroxide and 2.7 ml of isopropyl alcohol was maintained at a temperature in the range of 85°-96° C. while 20.3 g of ten percent aqueous hydrogen peroxide was added over a period of approximately six hours. The reaction mixture was set aside at ambient temperature overnight. The solid was collected by filtration, washed free of alkali with water and dried in vacuo to obtain 5.5 g of 3-(4-dimethylaminophenyl)-3-(4-methoxyphenyl)-6-dimethylaminophthalide, a yellow-colored solid which melted at 156°-161° C.

reactant | 2-(4-dimethylamino-4'-methoxybenzhydryl)-5-dimethylaminobenzoic acid | 8.1 g | CN(C1=CC=C(C(C2=CC=C(C=C2)OC)C2=C(C(=O)O)C=C(C=C2)N(C)C)C=C1)C | C25H28N2O3
reactant | water | 40.0 ml | O | H2O
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | hydrogen peroxide | 20.3 g | OO | H2O2
solvent | isopropyl alcohol | 2.7 ml | C(C)(C)O | C3H8O
product | 3-(4-dimethylaminophenyl)-3-(4-methoxyphenyl)-6-dimethylaminophthalide | 5.5 g | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1=CC=C(C=C1)OC)C | C25H26N2O3
